US05405861
A mixture of 2-acetoxythioacetamide (10 g), 2-chlorocyclopentanone (10.6 g) and dimethylformamide (100 ml) was stirred for 24 hours at 80° C. The reaction mixture was cooled and poured into ice-water (500 ml), followed by extraction twice with ethyl acetate (200 ml). The extract was washed twice with water (100 ml), which was dried over magnesium sulfate, then the solvent was distilled off under reduced pressure. The residue was subjected to a silica gel chromatography (2.5×50 cm), eluting with ethyl acetate-hexane (3:7). The object fraction was concentrated to give 2-acetoxymethyl-5,6-dihydro-4H-cyclopentathiazole (5 g) as a yellow oily product.

reactant | 2-acetoxythioacetamide | 10 g | C(C)(=O)OCC(=S)N | C4H7NO2S
reactant | 2-chlorocyclopentanone | 10.6 g | ClC1C(CCC1)=O | C5H7ClO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-acetoxymethyl-5,6-dihydro-4H-cyclopentathiazole | 5 g | C(C)(=O)OCC=1SC2=C(N1)CCC2 | C9H11NO2S
